US07919506B2
Step A: Preparation of (2-{[(3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-(tetrahydro-pyran-4-yl)-methanol
To a suspension of magnesium in THF was added iodine followed by 4-chlorotetrahydropyran in THF at 65° C. Small amount of methylmagnesium bromide (3 drops) was added to initiate the reaction. The mixture was stirred at 65° C. for 1.5 hours, cooled to room temperature. 2-{[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-methyl}-4-trifluoromethyl-benzaldehyde in THF was treated with trimethylsilyl chloride and stirred at room temperature for 1 hour. The Grignard was then added to the aldehyde in THF at 0° C. via syringe. The mixture was stirred at 0° C. for 1.5 hours, quenched with saturated aqueous ammonium chloride and extracted with ethyl acetate. Combined organic layers were washed with brine, dried over sodium sulfate, and concentrated in vacuo. The residue was purified by chromatography over 25+S Biotage silica column (eluted with 0-50% ethyl acetate in hexanes) to afford the title compound as a pale yellow foam (91.6 mg, 52%). 1H NMR (400 MHz, CDCl3) δ ppm 1.07 (d, J=13.28 Hz, 1H) 1.27-1.37 (m, 1H) 1.40-1.52 (m, 1H) 1.77-1.89 (m, 2H) 2.51 (s, 1H) 3.19-3.34 (m, 2H) 3.86 (dd, J=11.14, 3.53 Hz, 1H) 3.99 (dd, J=11.62, 3.73 Hz, 1H) 4.18 (s, 3H) 4.68-4.83 (m, 4H) 4.88 (d, J=15.35 Hz, 1H) 7.34 (s, 1H) 7.55 (s, 2H) 7.64 (s, 2H) 7.77 (s, 1H). MS (ES+) Calc: 597.2, Found: 598.4 (M+1). The racemic alcohol mixture was separated by chiral chromatography using preparative HPLC (Column: Chiralcel OJ; Dimension: 5 cm×50 cm; Mobile phase: 95/5 heptane/ethanol with 0.1% DEA, Flow rate: 120 mL/minutes). The expected preparative retention times for the two enantiomers are 26 minutes (Enantiomer 1) and 36 minutes (Enantiomer 2). Enantiomer 1: MS Calc: 597.2, Found: 598.4; 100% ee. Enantiomer 2: MS Calc: 597.2, Found: 598.4; 100% ee

reactant | magnesium | [Mg] | Mg
reactant | iodine | II | I2
reactant | 4-chlorotetrahydropyran | ClC1CCOCC1 | C5H9ClO
reactant | 2-{[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-methyl}-4-trifluoromethyl-benzaldehyde | FC(C=1C=C(CN(C=2N=NN(N2)C)CC2=C(C=O)C=CC(=C2)C(F)(F)F)C=C(C1)C(F)(F)F)(F)F | C20H14F9N5O
reactant | trimethylsilyl chloride | C[Si](C)(C)Cl | C3H9ClSi
solvent | THF | C1CCOC1 | C4H8O
catalyst | methylmagnesium bromide | 3 drops | C[Mg]Br
product | (2-{[(3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-(tetrahydro-pyran-4-yl)-methanol | 91.6 mg, 52% | FC(C=1C=C(CN(C=2N=NN(N2)C)CC2=C(C=CC(=C2)C(F)(F)F)C(O)C2CCOCC2)C=C(C1)C(F)(F)F)(F)F | C25H24F9N5O2
